US07517876B2
2-Oxo-4-(R)-phenyl-oxazolidin-3-carbonyl chloride
To a solution of (R)-(−)-4-phenyl-2-oxazolidinone in THF (200 mL) at 0° C. was slowly added a 2.5 M solution of butyllithium in hexane (19 mL, 0.03 mol). The mixture was stirred at 0° C. for 30 min and then cooled to −78° C. Trichloromethyl chloroformate (7.8 mL, 0.03 mol) was added quickly in one portion and the reaction solution was stirred at −78° C. for 30 min. The resulting mixture was allowed to warm to room temperature, and was subsequently concentrated in vacuo. The resulting residue was taken up in CH2Cl2 (200 mL) and filtered, and the filtrate was concentrated in vacuo to afford the title compound as an off-white solid (4.5 g, 65%).

reactant | (R)-(−)-4-phenyl-2-oxazolidinone | C1(=CC=CC=C1)[C@H]1NC(OC1)=O | C9H9NO2
reactant | butyllithium | C(CCC)[Li]
reactant | hexane | 0.03 mol, 19 mL | CCCCCC | C6H14
reactant | Trichloromethyl chloroformate | 0.03 mol, 7.8 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-Oxo-4-(R)-phenyl-oxazolidin-3-carbonyl chloride | 4.5 g, 65% | O=C1OC[C@H](N1C(=O)Cl)C1=CC=CC=C1 | C10H8ClNO3
